US03950423
10,11 -Dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-ol
A solution of 190 mg. (0.0005 mole) of sodium borohydride in 1 ml. of water is added dropwise to a stirred solution of 830 mg. (0.00296 mole) of 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-one in 10 ml. of isopropyl alcohol. After stirring the mixture for 3 hours at room temperature and 30 minutes at reflux, the isopropyl alcohol is evaporated under reduced pressure. The residue is partitioned between benzene and water and the benzene extract is separated, washed, and dried. Evaporation under reduced pressure leaves the product as the residual pale yellow oil. A sample for analysis is evaporatively distilled at 80°C. and 0.1 mm.

reactant | sodium borohydride | 0.0005 mole | [BH4-].[Na+]
reactant | water | O | H2O
reactant | 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-one | 0.00296 mole | FC1(C(C2=C(C(C3=C1C=CC=C3)=O)C=CC=C2)(F)F)F | C15H8F4O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 10,11 -Dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-ol | FC1(C(C2=C(C(C3=C1C=CC=C3)O)C=CC=C2)(F)F)F | C15H10F4O
